US06982348B2
To a solution of 3-(1,1,2,2-tetrafluoroethoxy)toluene (6.0 g, 28.8 mmol) in carbon tetrachloride (60 ml) were added N-bromosuccinimide (5.65 g, 31.7 mmol) and 2,2′-azobis(isobutyronitrile) (237 mg, 1.44 mmol), and the mixture was heated under reflux for 6 hrs. After cooling, the reaction solution was filtered, and the filtrate was concentrated to give 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene. To a solution of ethyl 3-(4-((4-chloro-3-ethylphenyl)oxy)phenyl)-3-oxopropionate (10 g, 28.8 mmol) in 1,2-dimethoxyethane (100 ml) was added sodium hydride (60% in oil, 1.15 g, 28.8 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene prepared earlier in 1,2-dimethoxyethane (10 ml), and the reaction solution was stirred at room temperature for 1 hr. The reaction solution was poured into water (100 ml), and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene) to give ethyl 3-(4-((4-chloro-3-ethylphenyl)oxy)phenyl)-3-oxo-2-((3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)propionate (9.26 g, 58%) as a colorless oil.

reactant | ethyl 3-(4-((4-chloro-3-ethylphenyl)oxy)phenyl)-3-oxopropionate | 28.8 mmol, 10 g | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)C(CC(=O)OCC)=O)CC | C19H19ClO4
reactant | sodium hydride | 28.8 mmol, 1.15 g | [H-].[Na+]
reactant | 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene | FC(C(F)F)(OC=1C=C(C=CC1)CBr)F | C9H7BrF4O
reactant | water | 100 ml | O | H2O
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | ethyl 3-(4-((4-chloro-3-ethylphenyl)oxy)phenyl)-3-oxo-2-((3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)propionate | 9.26 g, 58% | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)=O)CC | C28H25ClF4O5
